US05264437
Potassium-2-chloro-nicotinate (89 g, 455 mmole) was suspended in 630 ml of dimethylformamide. To this suspension was added 3-nitroaniline (75.3 gm, 546 mmole), cupric acetate (5.1 g, 25.5 mmole) and N-ethyl morpholine (52.3 g, 455 mmoles). The suspension was refluxed with stirring under N2 for 4 hours. The reaction mixture was cooled to room temperature and the pH was adjusted to 4-5 by the addition of 6M HCl. A yellow precipitate was isolated from the reaction mixture, washed with water and air dried yielding 66.3 g (256 mmole, 56% yield) of 2-(3-nitroanilino)-3-carboxypyridine (mp 262°-264° C.).

reactant | Potassium 2-chloro-nicotinate | 455 mmole, 89 g | [K].ClC1=C(C(=O)[O-])C=CC=N1
reactant | 3-nitroaniline | 546 mmole, 75.3 gm | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | N-ethyl morpholine | 455 mmoles, 52.3 g | C(C)N1CCOCC1 | C6H13NO
reactant | HCl | 6M | Cl | ClH
solvent | dimethylformamide | 630 ml | CN(C=O)C | C3H7NO
product | 2-(3-nitroanilino)-3-carboxypyridine | 256 mmole, 66.3 g, 56% yield | [N+](=O)([O-])C=1C=C(NC2=NC=CC=C2C(=O)O)C=CC1 | C12H9N3O4
